US08541588B2
3-cyano-4-[2-(1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
3-cyano-N-(1,2,4-thiadiazol-5-yl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]benzenesulfonamide (Preparation 760, 500 mg, 0.88 mmol), 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (Preparation 337, 600 mg, 1.4 mmol), palladium (0) tetrakis triphenylphosphine (78 mg, 0.067 mmol) and sodium carbonate (420 mg, 3.963 mmol) were dissolved in a mixture of water (4 mL) and 1,4-dioxane (12 mL) and heated to 85° C. under N2 for 7 hours. Further 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (100 mg 0.23 mmol) and palladium (0) tetrakis triphenylphosphine (10 mg, 0.008 mmol) were added and the reaction stirred at 85° C. under N2 for 18 hours. The reaction was quenched by the addition of ethyl acetate (20 mL) and saturated aqueous brine solution (20 mL). The organic layer was collected, dried over sodium sulphate and concentrated in vacuo before purification using silica gel column chromatography (v/v/v dichloromethane:methanol:acetic acid v/v/v 100:0:0 to 95:5:0.5) to afford a white solid. This was dissolved in 4M HCl in 1,4-dioxane (5 mL) and stirred at room temperature for 4 hours before concentration in vacuo and purification using silica gel column chromatography (v/v/v dichloromethane:methanol:acetic acid 100:0:0 to 90:10:1 to afford a residue that was triturated in dichloromethane (5 mL) to afford 210 mg of the title compound as a white solid as the HCl salt.

reactant | 3-cyano-N-(1,2,4-thiadiazol-5-yl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]benzenesulfonamide | 0.88 mmol, 500 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)I)S(=O)(=O)NC1=NC=NS1 | C16H8F3IN4O4S2
reactant | 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.4 mmol, 600 mg | C(C)OCN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
reactant | sodium carbonate | 3.963 mmol, 420 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.23 mmol, 100 mg | C(C)OCN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
reactant | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
solvent | water | 4 mL | O | H2O
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-cyano-4-[2-(1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 210 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)C1=CC=NN1)S(=O)(=O)NC1=NC=NS1 | C19H11F3N6O4S2
